US06329381B1
6-Amino-9-benzyl-2-(3-ethoxypropoxy)-8-methoxypurine
To 6-amino-9-benzyl-8-bromo-2-(3-ethoxypropoxy)purine (250 mg, 0.36 mmol) in 20 ml of methanol was added 1N aqueous sodium hydroxide (80 ml). The mixture was refluxed on heating under stirring for 2 hours. The reaction mixture was concentrated in vacuo to dryness. To the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate and the solvent was removed. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (187 mg, yield 85%).

reactant | 6-amino-9-benzyl-8-bromo-2-(3-ethoxypropoxy)purine | 0.36 mmol, 250 mg | NC1=C2N=C(N(C2=NC(=N1)OCCCOCC)CC1=CC=CC=C1)Br | C17H20BrN5O2
reactant | sodium hydroxide | 1N, 80 ml | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | 6-Amino-9-benzyl-2-(3-ethoxypropoxy)-8-methoxypurine | 187 mg, yield 85% | NC1=C2N=C(N(C2=NC(=N1)OCCCOCC)CC1=CC=CC=C1)OC | C18H23N5O3
